US05236928
2-Butyl-5-carbomethoxy-4-chloroimidazole
To a solution of 2-Butyl-4-chloro-5-formylimidazole (4.9 g, 26 mMol) in methanol (350 ml) were added NaCN (12.98 g, 0.26 Mol), glacial AcOH (2.5 ml) and MnO2 (57.6 g, 0.663 Mol), and the mixture was stirred at room temperature for 72 h. The reaction was filtered through a pad of celite and concentrated in vacuo. The residue obtained was partitioned between EtOAc (150 ml) and water (50 ml), and the organic phase was washed with brine and then dried over sodium sulfate. The crude product (5.73 g), obtained after removal of the solvent under reduced pressure, was purified by flash-chromatography on silica-gel using EtOAc-hexane (1:5). Yield 4.5 g (80%, white solid). The product was crystallized from ethylacetate-hexane to give fine needles.

reactant | 2-Butyl-4-chloro-5-formylimidazole | 26 mMol, 4.9 g | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | NaCN | 0.26 Mol, 12.98 g | [C-]#N.[Na+]
reactant | AcOH | 2.5 ml | CC(=O)O | C2H4O2
solvent | methanol | 350 ml | CO | CH4O
catalyst | MnO2 | 0.663 Mol, 57.6 g | O=[Mn]=O
product | 2-Butyl-5-carbomethoxy-4-chloroimidazole | 5.73 g | C(CCC)C=1NC(=C(N1)Cl)C(=O)OC | C9H13ClN2O2
